US06294566B1
To 2-(Benzhydrylideneamino)-3-quinolin-4-yl-propionitrile (0.155 g, 4.29 mmol) in 5 ml dioxane, 1N HCl (1.3 ml, 12.8 mmol) was added and the reaction mixture stirred at room temperature overnight. The solution was concentrated under reduced pressure, partitioned between 10 ml water and EtOAc (10 ml). The organic layer was dried over sodium sulfate filtered and concentrated to give 2-Amino-3-quinolin-4-yl-propionitrile 0.036 g (43%) which was used as such for the subsequent step.

reactant | 2-(Benzhydrylideneamino)-3-quinolin-4-yl-propionitrile | 4.29 mmol, 0.155 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC(C#N)CC1=CC=NC2=CC=CC=C12 | C25H19N3
reactant | HCl | 12.8 mmol, 1N, 1.3 ml | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-Amino-3-quinolin-4-yl-propionitrile | 0.036 g, 43% | NC(C#N)CC1=CC=NC2=CC=CC=C12 | C12H11N3
